US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (30.4 mg, 0.109 mmol) and 3-bromopropyl phenylmethyl ether (0.03 mL, 0.17 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (29.1 mg, 53%). EI-MS m/z 428 (M+) Rt (1.93 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.109 mmol, 30.4 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 3-bromopropyl phenylmethyl ether | 0.17 mmol, 0.03 mL | C1(=CC=CC=C1)COCCCBr | C10H13BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.1]heptane bromide | 29.1 mg, 53% | [Br-].OC(C12CC[N+](CC1)(C2)CCCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H34NO2.BrH/c31-29(26-13-6-2-7-14-26,27-15-8-3-9-16-27)28-17-20-30(24-28,21-18-28)19-10-22-32-23-25-11-4-1-5-12-25;/h1-9,11-16,31H,10,17-24H2;1H/q+1;/p-1
